US04051248
B. 8-[(3,4-Dihydro-6,7-dimethyl-2-naphthalenyl)methyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one, hydrochloride (1:1)
8-[(3,4-Dihydro-6,7-dimethyl-2-naphthalenyl)methyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one (2.1 g) in 100 ml of absolute ethanol is treated with an excess of ethereal hydrogen chloride to yield the crude salt. The title compound (2.1 g) is crystallized from methanol and has a melting point of 276°-277° C.

reactant | 8-[(3,4-Dihydro-6,7-dimethyl-2-naphthalenyl)methyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 2.1 g | CC=1C=C2CCC(=CC2=CC1C)CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C26H31N3O
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 8-[(3,4-Dihydro-6,7-dimethyl-2-naphthalenyl)methyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one, hydrochloride | Cl.CC=1C=C2CCC(=CC2=CC1C)CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | InChI=1S/C26H31N3O.ClH/c1-19-14-22-9-8-21(16-23(22)15-20(19)2)17-28-12-10-26(11-13-28)25(30)27-18-29(26)24-6-4-3-5-7-24;/h3-7,14-16H,8-13,17-18H2,1-2H3,(H,27,30);1H
